US06911463B2
Solid di-tert-butyl dicarbonate (20 g, 92 mmol) is added to a slurry of 2-methyl-1-[7-(benzyloxy)indol-3-yl]prop-2-ylamine (31.54 g, 107.1 mmol), triethylamine (16.5 mL, 118 mmol) and CH2Cl2 (300 mL) at ambient temperature; within 2 hours the slurry became a homogeneous solution. After 23.5 hours, the solution is poured into water (200 mL), and the layers are separated. The organic layer is extracted with 0.5 MNaHSO4 (200 mL), and the combined aqueous layers are rinsed with CH2Cl2 (125 mL). The combined organic layers are rinsed with 50% saturated NaCl/saturated NaHCO3 (300 mL), dried (Na2SO4), filtered and concentrated. The resulting residue is purified by flash chromatography with CH2Cl2 followed by 5% ethyl acetate/CH2Cl2 to provide 25 g of [2-(7-benzyloxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (70%). MS (ES−) m/z 393 (100%).

reactant | di-tert-butyl dicarbonate | 92 mmol, 20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-methyl-1-[7-(benzyloxy)indol-3-yl]prop-2-ylamine | 107.1 mmol, 31.54 g | CC(CC1=CNC2=C(C=CC=C12)OCC1=CC=CC=C1)(C)N | C19H22N2O
reactant | triethylamine | 118 mmol, 16.5 mL | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | [2-(7-benzyloxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 25 g, 70% | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)OCC1=CC=CC=C1)(C)C)=O | C24H30N2O3
